US07683067B2
2-Hydroxy-N-[2-(methylsulfonyl)ethyl]-3-[5-(morpholin-4-ylmethyl)pyridin-2-yl]-1H-indole-5-carboxamide hydrochloride
Starting materials: methyl 2-hydroxy-3-[5-(morpholin-4-ylmethyl)pyridin-2-yl]-1H-indole-5-carboxylate and 2-aminoethylmethylsulfone hydrochloride, but the reaction mixture was after cooling diluted with a saturated sodium hydrogen carbonate solution (10 mL) and concentrated in vacuo. The residue was suspended in methanol/dichloromethane (1:1) and silica gel (˜2 g) was added. The mixture was re-concentrated in vacuo, resulting in a fine yellow powder that was purified on a silica gel column using dichloromethane/methanol/aqueous NH3, (100:10:1), as the eluent to afford the title compound as a base in 36% yield: 1H NMR (DMSO-d6, 300 MHz) δ 14.70 (br s, 1H), 11.42 (br s, 1H), 10.71 (s, 1H), 8.73 (br s, 1H), 8.22 (s, 1H), 8.06 (d, J=9.3 Hz, 1H), 7.99 (s, 1H), 7.82 (d, J=9.3 Hz, 1H), 7.52 (d, J=8.2 Hz, 1H), 6.94 (d, J=8.2 Hz, 1H), 4.25 (s, 2H), 3.98-3.92 (m, 2H), 3.85-3.67 (m, 4H), 3.44-3.29 (m, 4H), 3.12-3.00 (m, 5H); MS (ES) m/z 459 (M++1). The base was converted to the hydrochloride.

reactant | methyl 2-hydroxy-3-[5-(morpholin-4-ylmethyl)pyridin-2-yl]-1H-indole-5-carboxylate | OC=1NC2=CC=C(C=C2C1C1=NC=C(C=C1)CN1CCOCC1)C(=O)OC | C20H21N3O4
reactant | 2-aminoethylmethylsulfone hydrochloride | Cl.NCCS(=O)(=O)C
solvent | sodium hydrogen carbonate | 10 mL | C(O)([O-])=O.[Na+]
product | 2-Hydroxy-N-[2-(methylsulfonyl)ethyl]-3-[5-(morpholin-4-ylmethyl)pyridin-2-yl]-1H-indole-5-carboxamide hydrochloride | 36% yield | Cl.OC=1NC2=CC=C(C=C2C1C1=NC=C(C=C1)CN1CCOCC1)C(=O)NCCS(=O)(=O)C | InChI=1S/C22H26N4O5S.ClH/c1-32(29,30)11-6-23-21(27)16-3-5-18-17(12-16)20(22(28)25-18)19-4-2-15(13-24-19)14-26-7-9-31-10-8-26;/h2-5,12-13,25,28H,6-11,14H2,1H3,(H,23,27);1H
